US08202873B2
4-(1,5-Dimethyl-1H-pyrazol-4-ylmethyl)-3′-[4-(2-methyl-imidazol-1-ylmethyl)-phenyl]-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl hydrochloride
Stir 2-methyl imidazole (164 mg, 2.00 mmol) in dry N,N-dimethylformamide (5 mL) under nitrogen. Add sodium hydride (60% weight dispersion in oil, 77 mg, 2.00 mmol), then stir for 1 hr. at room temperature. Add 3′-(4-chloromethyl-phenyl)-4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl dihydrochloride (233 mg, 0.50 mmol) at room temperature, followed by sodium iodide (75 mg, 0.50 mmol). Stir at room temperature for 20 hr. Quench reaction with water (20 mL), extract with DCM (3×10 mL). Pass the combined DCM extracts through an IST Phase Separator Frit®, concentrate and purify by high pH reverse phase HPLC, and concentrate to give the free base. Dissolve the free base in acetonitrile and convert to the hydrochloride salt by adding 1 eq 2 M aq HCl solution. Add water and lyophilize to give the title compound as a light brown powder (124 mg, 52%). MS (ES): m/z=443 [M+H]+.

reactant | 2-methyl imidazole | 2.00 mmol, 164 mg | CC=1NC=CN1 | C4H6N2
reactant | sodium hydride | 2.00 mmol, 77 mg | [H-].[Na+]
reactant | 3′-(4-chloromethyl-phenyl)-4-(1,5-dimethyl-1H-pyrazol-4-ylmethyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl dihydrochloride | 0.50 mmol, 233 mg | Cl.Cl.ClCC1=CC=C(C=C1)C=1C(=NC=CN1)N1CCN(CC1)CC=1C=NN(C1C)C
reactant | sodium iodide | 0.50 mmol, 75 mg | [I-].[Na+]
reactant | HCl | 2 M, 1 eq | Cl | ClH
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
product | 4-(1,5-Dimethyl-1H-pyrazol-4-ylmethyl)-3′-[4-(2-methyl-imidazol-1-ylmethyl)-phenyl]-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl hydrochloride | 124 mg, 52% | Cl.CN1N=CC(=C1C)CN1CCN(CC1)C1=NC=CN=C1C1=CC=C(C=C1)CN1C(=NC=C1)C | InChI=1S/C25H30N8.ClH/c1-19-23(16-29-30(19)3)18-31-12-14-32(15-13-31)25-24(27-8-9-28-25)22-6-4-21(5-7-22)17-33-11-10-26-20(33)2;/h4-11,16H,12-15,17-18H2,1-3H3;1H
